US06617336B1
16.9 ml (110 mmol) of trifluoromethane-sulfonic anhydride are added dropwise, at 0° C., to a solution of 12.5 g (53 mmol) of 2-phenyl-3-methyl-8-hydroxyquinoline in 150 ml of pyridine. The reaction mixture is then stirred for 16 hours at ambient temperature. After evaporating the pyridine, the residue is taken up in 200 ml of water and 100 ml of ethyl acetate. The aqueous phase is extracted with 2×100 ml of ethyl acetate. The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue is purified by silica gel chromatography (eluent: ethyl acetate/cyclohexane 3/7) to give 17.8 g of 2-phenyl-3-methyl-8-trifluoromethanesulfonyloxyquinoline in the form of a beige solid; M.p.=85° C. (Yield: 91%)

reactant | trifluoromethane-sulfonic anhydride | 110 mmol, 16.9 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-phenyl-3-methyl-8-hydroxyquinoline | 53 mmol, 12.5 g | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)O | C16H13NO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2-phenyl-3-methyl-8-trifluoromethanesulfonyloxyquinoline | 17.8 g, Yield: 91% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C17H12F3NO3S
